US08383637B2
N-[2-(4′-Nitro-3′-propylaminomethyl-biphenyl-2-yl)-ethyl]-benzenesulfonamide
NaBH(OAc)3 (0.0031 mol) was added to a mixture of N-[2-(3′-formyl-4′-nitro-biphenyl-2-yl)-ethyl]-benzenesulfonamide (0.0021 mol) and propylamine (0.0023 mol) in DCE (2 mL), and the reaction mixture was stirred overnight under N2. The excess of NaBH(OAc)3 was decomposed with CH3OH, and the solvent was evaporated. The residue was purified by Biotage column chromatography (eluent: 95:5 CH2Cl2:CH3OH). The purest product fractions were collected and then the solvent was evaporated and co-evaporated with toluene to yield the title compound as a residue.

reactant | NaBH(OAc)3 | 0.0031 mol | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | N-[2-(3′-formyl-4′-nitro-biphenyl-2-yl)-ethyl]-benzenesulfonamide | 0.0021 mol | C(=O)C=1C=C(C=CC1[N+](=O)[O-])C1=C(C=CC=C1)CCNS(=O)(=O)C1=CC=CC=C1 | C21H18N2O5S
reactant | propylamine | 0.0023 mol | C(CC)N | C3H9N
reactant | CH3OH | CO | CH4O
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
product | N-[2-(4′-Nitro-3′-propylaminomethyl-biphenyl-2-yl)-ethyl]-benzenesulfonamide | [N+](=O)([O-])C1=C(C=C(C=C1)C1=C(C=CC=C1)CCNS(=O)(=O)C1=CC=CC=C1)CNCCC | C24H27N3O4S
